US04536574
21.1 g (0.1 mol) of cyanomethyl p-toluenesulphonate are added in portions to a solution of 0.01 mol of sodium methylate in 100 ml of methanol at 0° to 5° C. The mixture is allowed to come to 20° C., 5.9 g (0.11 mol) of ammonium chloride are added at this temperature and the mixture is stirred at room temperature for 4 hours. 6 g (0.125 mol) of methylmercaptan are then passed in at 10° C., a solution of 0.11 mol sodium methylate in 20 ml of methanol is added dropwise at the same temperature, and the mixture is stirred first at 0° to 5° C. for 1 hour and then without cooling for 2 hours. A further 0.22 mol of sodium methylate in 40 ml of methanol and then 13 g (0.1 mol) of methyl 2-methylacetoacetate are added to the reaction mixture at room temperature, and the mixture is subsequently stirred at room temperature for a further 18 hours. The solvent is then distilled off in vacuo, the residue is dissolved in 100 ml of water and the solution is brought to pH 4 with concentrated hydrochloric acid at 10° to 20° C. The product which has precipitated is filtered off with suction and rinsed with 20 ml of cold water. 12.8 g (70% of theory) of 2-methylthiomethyl-4-hydroxy-5,6-dimethylpyrimidine are obtained in this manner in the form of a beige powder of melting point 166° C.

reactant | cyanomethyl p-toluenesulphonate | 0.1 mol, 21.1 g | C1(=CC=C(C=C1)S(=O)(=O)OCC#N)C | C9H9NO3S
reactant | sodium methylate | 0.01 mol | C[O-].[Na+]
reactant | ammonium chloride | 0.11 mol, 5.9 g | [Cl-].[NH4+]
reactant | methylmercaptan | 0.125 mol, 6 g | CS | CH4S
reactant | sodium methylate | 0.11 mol | C[O-].[Na+]
reactant | sodium methylate | 0.22 mol | C[O-].[Na+]
reactant | methyl 2-methylacetoacetate | 0.1 mol, 13 g | CC(C(=O)OC)C(=O)C | C6H10O3
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 2-methylthiomethyl-4-hydroxy-5,6-dimethylpyrimidine | 12.8 g, 70% | CSCC1=NC(=C(C(=N1)O)C)C | C8H12N2OS
